US07446201B2
Step 1: Synthesis of 6-(1-Benzofuran-2-yl)-4-methoxy-2-(trifluoromethyl)quinoline:
To a stirring solution of 6-(1-benzofuran-2-yl)-4-hydroxy-2-(trifluoromethyl)-quinoline (1.33 g, 4.04 mmol) in DMF (40 mL) at room temperature was added K2CO3 (0.670 g, 4.85 mmol) followed by methyl iodide (0.276 mL, 4.44 mmol) drop-wise. The reaction mixture was stirred for 4 hours then concentrated and the residue was diluted with EtOAc (200 mL). The organic layer was washed with H2O (20 mL), sat. aq. NaHCO3 (20 mL), and brine (20 mL) and then dried (Na2SO4). After concentration, the residue was purified on a Biotage Flash 40 apparatus (5-15% EtOAc:petroleum ether) to afford the product (0.930 g) as a solid. Mass spectrum (+ESI, [M+H]+) m/z 344. 1H NMR (500 MHz, DMSO-d6): δ 8.67 (s, 1H), 8.46 (d, 1H, J=9.1 Hz), 8.19 (d, 1H, J=9.1 Hz), 7.68-7.79 (m, 3H), 7.48 (s, 1H), 7.40 (t, 1H, J=7.8 Hz), 7.32 (t, 1H, J=7.8 Hz), and 4.26 ppm (s, 3H).

reactant | 6-(1-benzofuran-2-yl)-4-hydroxy-2-(trifluoromethyl)-quinoline | 4.04 mmol, 1.33 g | O1C(=CC2=C1C=CC=C2)C=2C=C1C(=CC(=NC1=CC2)C(F)(F)F)O | C18H10F3NO2
reactant | K2CO3 | 4.85 mmol, 0.670 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl iodide | 4.44 mmol, 0.276 mL | CI | CH3I
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 6-(1-Benzofuran-2-yl)-4-methoxy-2-(trifluoromethyl)quinoline | 0.930 g | O1C(=CC2=C1C=CC=C2)C=2C=C1C(=CC(=NC1=CC2)C(F)(F)F)OC | C19H12F3NO2
